US07977344B2
2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-{2-[(3S)-tetrahydro-3-furanyl]ethyl}-9H-purin-6-amine
Prepared similarly to Intermediate 216 from 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and (3R)-3-(2-bromoethyl)tetrahydrofuran.

reactant | 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | (3R)-3-(2-bromoethyl)tetrahydrofuran | BrCC[C@@H]1COCC1 | C6H11BrO
product | 2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-{2-[(3S)-tetrahydro-3-furanyl]ethyl}-9H-purin-6-amine | C[C@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CC[C@@H]1COCC1)OC)N | C17H27N5O3
